US08957069B2
5-bromo-2-[(methoxymethoxy)methyl]-2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran
Ethyldiisopropylamine (1.26 g, 9.74 mmol) and chloromethylmethylether (627 mg, 7.79 mmol) were serially added to a solution of THF (15 mL) containing (5-bromo-2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-2-yl)methanol (1.85 g, 6.49 mmol) synthesized in Reference Example 123 under ice-cooling condition, and the mixture was warmed to room temperature and stirred for 15 hours. Ethyldiisopropylamine (1.26 g, 9.74 mmol) and chloromethylmethylether (523 mg, 6.49 mmol) were further added serially to the reaction solution under ice-cooling condition, and the mixture was warmed to room temperature and stirred for 15 hours. The reaction solution was poured into saturated sodium bicarbonate water, and THF was removed under reduced pressure, followed by extraction using ethyl acetate. The extract was washed with saturated saline and dried using anhydrous magnesium sulfate. After that, the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate 96:4-80:20) to give 1.62 g of the title compound as an oily product (yield: 76%).

reactant | Ethyldiisopropylamine | 9.74 mmol, 1.26 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | chloromethylmethylether | 7.79 mmol, 627 mg | ClCOC | C2H5ClO
reactant | (5-bromo-2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-2-yl)methanol | 6.49 mmol, 1.85 g | BrC=1C(=C(C2=C(CC(O2)(C)CO)C1C)C)C | C13H17BrO2
reactant | Ethyldiisopropylamine | 9.74 mmol, 1.26 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | chloromethylmethylether | 6.49 mmol, 523 mg | ClCOC | C2H5ClO
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 5-bromo-2-[(methoxymethoxy)methyl]-2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran | 1.62 g | BrC=1C(=C(C2=C(CC(O2)(C)COCOC)C1C)C)C | C15H21BrO3
